US08487093B2
Step 1: (2S,5R)-6-(Benzyloxy)-N-[2-(dimethylamino)pyridin-4-yl]-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (37.3 mg, 0.135 mmol) in dry dichloromethane (2.5 mL) was added triethylamine (0.047 mL, 0.338 mmol), 2-chloro-1-methylpyridinium iodide (38.3 mg, 0.15 mmol), and 2-dimethylamino-4-aminopyridine (21.7 mg, 0.158 mmol) sequentially at room temperature under nitrogen. The reaction was then heated to 50° C. for 1.5 hours. LC/MS showed reaction complete. The reaction mixture was concentrated and purified by HPLC on a 30×100 mm Waters Sunfire column to afford the title compound as an off-white solid after lyophilization.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.135 mmol, 37.3 mg | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | triethylamine | 0.338 mmol, 0.047 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.15 mmol, 38.3 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 2-dimethylamino-4-aminopyridine | 0.158 mmol, 21.7 mg | CN(C1=NC=CC(=C1)N)C | C7H11N3
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (2S,5R)-6-(Benzyloxy)-N-[2-(dimethylamino)pyridin-4-yl]-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC(=NC=C2)N(C)C | C21H25N5O3
